US05234946
Production of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-hydroxybenzylamine
When the same reaction as above is carried out using ethylamine or propylamine instead of methylamine, (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-hydoxybenzylamine used in Examples 101 to 103 or (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-propyl-3-hydroxybenzylamine used in Examples 104 and 105 is obtained.

reactant | ethylamine | C(C)N | C2H7N
reactant | propylamine | C(CC)N | C3H9N
reactant | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-hydoxybenzylamine | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)O)(C)C | C18H25NO
reactant | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-propyl-3-hydroxybenzylamine | CC(C#C/C=C/CN(CCC)CC1=CC(=CC=C1)O)(C)C | C19H27NO
product | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-hydroxybenzylamine | CC(C#C/C=C/CN(C)CC1=CC(=CC=C1)O)(C)C | C17H23NO
